US06617330B2
3-Propyl-2-propoxy-3H-thieno [2,3-d]pyrimidine-4-ylideneamine
In a sulfonation flask, 5.7 g (0.023 mol) 3-cyano-2-(1,1-dipropoxymethylenamino)thiophene and 35 ml 1-aminopropane are heated at reflux temperature for 5 hours. Then the excess of 1-aminopropane is distilled off and the residue purified by column chromatography over silica gel (eluant: hexane/ethylacetate 1:1). Yield: 5.1 g of 3-propyl-2-propoxy-3H-thieno[2,3-d]pyrimidine-4-ylideneamine in the form of brownish crystals; m.p. 61-63° C.

reactant | 3-cyano-2-(1,1-dipropoxymethylenamino)thiophene | 0.023 mol, 5.7 g | C(#N)C1=C(SC=C1)N=C(OCCC)OCCC | C12H16N2O2S
reactant | 1-aminopropane | 35 ml | NCCC | C3H9N
product | 3-Propyl-2-propoxy-3H-thieno [2,3-d]pyrimidine-4-ylideneamine | C(CC)N1C(=NC2=C(C1=N)C=CS2)OCCC | C12H17N3OS
